US06946552B2
S-2-Pyridyl 3,5-di-tert-butylbenzothioate (11).
To a stirred solution of 2-mercaptopyridine (2.78 g, 25.0 mmol) in CH2Cl2 (50 mL) was added a solution of 3,5-di-tert-butylbenzoyl chloride (6.31 g, 25.0 mmol) in CH2Cl2 (125 mL) over 10 min. After 5 h, TLC showed complete consumption of the 2-mercaptopyridine, then 2 N NaOH was added The organic phase was isolated, washed with water, then dried (Na2SO4) and the solvent was removed to afford a white solid. The solid was recrystallized in hexane affording a white solid (5.05 g, 62%): mp 73-74°°C.; 1H NMR δ 1.36 (s, 18H), 7.31-7.36 (m, 1H), 7.67-7.70 (m, 1H), 7.75-7.80 (m, 2H), 7.85-7.88 (m, 2H), 8.66-8.69 (m, 1H); 13C NMR δ 32.0, 35.7, 122.6, 124.2, 128.9, 131.4, 136.9, 137.7, 151.1, 152.3, 152.5, 190.8; Anal. Calcd for C20H25NOS: C, 73.35; H, 7.69; N, 4.28. Found: C, 73.40; H, 7.75; N, 4.23.

reactant | 2-mercaptopyridine | 25.0 mmol, 2.78 g | SC1=NC=CC=C1 | C5H5NS
reactant | 3,5-di-tert-butylbenzoyl chloride | 25.0 mmol, 6.31 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1)C(C)(C)C | C15H21ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | S-2-Pyridyl 3,5-di-tert-butylbenzothioate | C(C)(C)(C)C=1C=C(C(SC2=NC=CC=C2)=O)C=C(C1)C(C)(C)C | C20H25NOS
